** sch_path: /foss/designs/DLL/2026/testbenchs/io testbenchs/tb_sg13g2_IOPadAnalog.sch
**.subckt tb_sg13g2_IOPadAnalog
Vin net2 GND PULSE(0 1.2 0 40p 40p 2n 4n)
XX16 net1 bondpad size=80u shape=0 padtype=0
x5 IO_iovdd IO_iovss net2 IO_vss IO_vdd net1 sg13g2_IOPadAnalog
V1 IO_vdd GND 1.2
V2 IO_iovdd GND 3.3
V3 IO_vss GND 0
V4 IO_iovss GND 0
V5 GND sub! 0
Vin1 in_a GND PULSE(0 1.2 0 40p 40p 0.5n 1n)
XX1 in_a bondpad size=80u shape=0 padtype=0
x2 IO_iovdd IO_iovss out_a IO_vss IO_vdd in_a sg13g2_IOPadAnalog
C1 out_a GND 100f m=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include diodes.lib
.include sg13g2_bondpad.lib
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice



.options method=gear reltol=1e-1 abstol=1e-1 vntol=1e-1
.control
 tran 10p 20n 10p
 plot v(in_a) v(out_a)
 plot i(Vin)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sg13g2_IOPadAnalog.sym # of pins=6
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadAnalog.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadAnalog.sch
.subckt sg13g2_IOPadAnalog iovdd iovss padres vss vdd pad
*.iopin padres
*.iopin iovss
*.iopin iovdd
*.iopin pad
*.iopin vdd
*.iopin vss
x3 pad iovss iovdd sg13g2_DCNDiode
x4 iovdd pad iovss sg13g2_DCPDiode
x1 pad iovdd iovss sg13g2_Clamp_N20N0D
x2 iovdd pad iovss sg13g2_Clamp_P20N0D
x5 iovdd pad padres iovss sg13g2_SecondaryProtection
.ends


* expanding   symbol:  sg13g2_IOPadIn.sym # of pins=6
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIn.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIn.sch
.subckt sg13g2_IOPadIn iovdd iovss p2c vss vdd pad
*.iopin iovdd
*.iopin vdd
*.iopin vss
*.iopin iovss
*.iopin p2c
*.iopin pad
x1 pad iovss iovdd sg13g2_DCNDiode
x2 iovdd pad iovss sg13g2_DCPDiode
x3 vdd iovdd p2c pad iovss vss sg13g2_LevelDown
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode anode guard
*.iopin cathode
*.iopin anode
*.iopin guard
XD1 anode cathode dantenna l=1.26u w=27.78u
XD2 anode cathode dantenna l=1.26u w=27.78u
* noconn guard
.ends


* expanding   symbol:  sg13g2_DCPDiode.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCPDiode.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCPDiode.sch
.subckt sg13g2_DCPDiode cathode anode guard
*.iopin cathode
*.iopin anode
*.iopin guard
XD1 anode cathode dpantenna l=1.26u w=27.78u
XD2 anode cathode dpantenna l=1.26u w=27.78u
* noconn guard
.ends


* expanding   symbol:  sg13g2_Clamp_N20N0D.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sch
.subckt sg13g2_Clamp_N20N0D pad iovdd iovss
*.iopin iovss
*.iopin pad
*.iopin iovdd
XM1 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM2 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM3 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM4 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM5 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM6 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM7 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM8 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM9 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM10 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM11 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM12 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM13 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM14 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM15 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM16 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM17 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM18 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM19 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM20 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XR1 iovss net1 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_Clamp_P20N0D.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_P20N0D.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_P20N0D.sch
.subckt sg13g2_Clamp_P20N0D iovdd pad iovss
*.iopin iovdd
*.iopin pad
*.iopin iovss
XM1 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM2 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM3 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM4 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM5 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM6 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM7 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM8 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM9 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM10 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM11 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM12 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM13 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM14 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM15 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM16 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM17 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM18 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM19 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM20 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM21 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM22 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM23 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM24 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM25 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM26 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM27 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM28 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM29 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM30 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM31 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM32 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM33 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM34 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM35 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM36 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM37 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM38 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM39 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM40 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XR1 net1 iovdd sub! rppd w=0.5e-6 l=12.9e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_SecondaryProtection.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_SecondaryProtection.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_SecondaryProtection.sch
.subckt sg13g2_SecondaryProtection iovdd pad core iovss
*.iopin iovdd
*.iopin iovss
*.iopin core
*.iopin pad
XR1 pad core sub! rppd w=1e-6 l=2e-6 m=1 b=0
XD1 iovss core dantenna l=3.1u w=0.78u
XD2 core iovdd dpantenna l=0.78u w=4.98u
.ends


* expanding   symbol:  sg13g2_LevelDown.sym # of pins=6
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_LevelDown.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_LevelDown.sch
.subckt sg13g2_LevelDown vdd iovdd core pad iovss vss
*.iopin vdd
*.iopin vss
*.iopin iovdd
*.iopin iovss
*.iopin pad
*.iopin core
XM1 vss net2 net1 vss sg13_hv_nmos w=2.65u l=0.45u ng=1 m=1
XM2 net1 net2 vdd vdd sg13_hv_pmos w=4.65u l=0.45u ng=1 m=1
XM3 vss net1 core vss sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
XM4 core net1 vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
x1 iovdd pad net2 iovss sg13g2_SecondaryProtection
.ends

.GLOBAL GND
.GLOBAL sub!
.end
